US08207167B2
2-Hydroxy-2-(3-nitrophenyl)ethyl acetate
2-(3-Nitrophenyl)-2-oxoethyl acetate (20 g) was dissolved in MeOH (200 mL) and cooled to 0° C. Sodium borohydride (6.78 g) was added pinch-wise to the reaction mixture and this was stirred for 2 hours at room temperature. The reaction was quenched by addition of acetone (10 mL) and the mixture concentrated to give a solid. The solid was treated with water (100 mL) and extracted with ethyl acetate (3×100 mL). The crude title compound obtained was used for next step without further purification (18 g, 89%).

reactant | 2-(3-Nitrophenyl)-2-oxoethyl acetate | 20 g | C(C)(=O)OCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H9NO5
reactant | Sodium borohydride | 6.78 g | [BH4-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | MeOH | 200 mL | CO | CH4O
product | 2-Hydroxy-2-(3-nitrophenyl)ethyl acetate | C(C)(=O)OCC(C1=CC(=CC=C1)[N+](=O)[O-])O | C10H11NO5
